US08445696B2
A 160 L reactor was charged with 1,4-dioxane (43 L) at ambient temperature followed by 2,3-dihydrospiro[furo[2,3-g][1,4]benzodioxine-8,3′-indol]-2′(1′H)-one (6.80 kg, 23 mol). To the resultant suspension was added cesium carbonate (18.7 kg, 58 mol) and the mixture was heated to 82° C. over 72 minutes. A container was rinsed with 1,4-diozane (7 L) and used for the addition of 2-(Chloromethyl)-3-(trifluoromethyl)pyridine hydrochloride (5.88 kg, 25 mol) portionwise over 35 minutes. The temperature of the reaction mixture was increased to 100° C. over 43 minutes and the mixture stirred at 100° C. for 3 h, cooled to 20° C. over 90 minutes and stirred for a further 16 h. Deionized water (40 L) and dichloromethane (40 L) were added and the resultant mixture stirred at 22° C. for 12 minutes. The stirring was stopped and the phases were allowed to separate for 21 minutes. The aqueous and organic phases were separated into drums. A 160 L reactor was charged with the aqueous phase and dichloromethane (41 L) was added. The mixture was stirred at 19° C. for 10 minutes, the stirring was stopped and the phases were allowed to separate for 10 minutes. The aqueous phase was removed and the organic phase from the previous step was transferred from the drum to the reactor. Deionized water (40 L) was added and the mixture stirred at 22° C. for 10 minutes. The stirring was stopped and the phases were allowed to separate for 43 minutes. The aqueous phase was removed and the organic phase concentrated to dryness under a reduced pressure of 712-97 mbar at 19-38° C. To the residue was added methanol (56 L) over 19 minutes. The resultant suspension was cooled to 3° C. over 64 minutes and stirred for 98 minutes. The mixture was filtered and the filter cake washed with cold (0° C.) methanol (14 L) and dried under a reduced pressure of 90-9 mbar at 21-46° C. for 10.5 h to obtain 1′-{[3-(trifluoromethyl)pyridin-2-yl]methyl}-2,3-dihydrospiro[furo[2,3-g][1,4]benzodioxine-8,3′-indol]-2′(1′H)-one (8.00 kg, 81%) as an off-white solid: purity (HPLC-UV) 99.8%; 1H NMR (300 MHz, CDCl3) δ8.67-8.63 (m, 1H), 8.01-7.96 (m, 1H), 7.35-7.28 (m, 1H), 7.22-7.13 (m, 2H), 7.05-6.98 (m, 1H), 6.63 (s, 1H), 6.62-6.58 (m, 1H), 6.49 (s, 1H), 5.42, 5.14 (ABq, JAB=17.3 Hz, 2H), 5.00, 4.74 (ABq, JAB=8.9 Hz, 2H), 4.22-4.10 (m, 4H); 13C NMR (75 MHz, CDCl3) δ178.3, 155.3, 152.5, 144.6, 142.4, 138.4, 134.3 (q, 3JC-F=5.2 Hz), 132.8, 128.7, 124.4, (q, 2JC-F=32.6 Hz), 123.9 (q, 1JC-F=273.3 Hz), 123.8, 123.4, 122.2, 121.7, 112.6, 108.6, 99.2, 80.2, 64.6, 64.0, 58.3, 42.3 (q, 4JC-F=3.3 Hz); MS (ES+) m/z 454.8 (M+1).

reactant | 1,4-dioxane | 43 L | O1CCOCC1 | C4H8O2
reactant | 2,3-dihydrospiro[furo[2,3-g][1,4]benzodioxine-8,3′-indol]-2′(1′H)-one | 23 mol, 6.80 kg | N1C(C2(C3=CC=CC=C13)COC1=CC3=C(OCCO3)C=C12)=O | C17H13NO4
reactant | cesium carbonate | 58 mol, 18.7 kg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(Chloromethyl)-3-(trifluoromethyl)pyridine hydrochloride | 25 mol, 5.88 kg | Cl.ClCC1=NC=CC=C1C(F)(F)F
solvent | dichloromethane | 40 L | ClCCl | CH2Cl2
solvent | water | 40 L | O | H2O
product | 1′-{[3-(trifluoromethyl)pyridin-2-yl]methyl}-2,3-dihydrospiro[furo[2,3-g][1,4]benzodioxine-8,3′-indol]-2′(1′H)-one | 8.00 kg, 81% | FC(C=1C(=NC=CC1)CN1C(C2(C3=CC=CC=C13)COC1=CC3=C(OCCO3)C=C12)=O)(F)F | C24H17F3N2O4
